US09353070B2
2-bromo-2,2-difluoro-N,N-diethyl-acetamide
Et2NH (7.9 g, 108 mmol) was added to ethyl bromodifluoroacetate (20.1 g, 99 mmol) at 30° C. The mixture was stirred for 60 min; then all volatiles were removed under reduced pressure. To the residue was added another 7.9 g of Et2NH and the mixture was stirred another 60 min. Again, all volatiles were removed under reduced pressure and the residue (16.3 g, >90% purity by NMR) was used in subsequent steps without further purification.

reactant | Et2NH | 108 mmol, 7.9 g | N(CC)CC | C4H11N
reactant | ethyl bromodifluoroacetate | 99 mmol, 20.1 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
product | 2-bromo-2,2-difluoro-N,N-diethyl-acetamide | BrC(C(=O)N(CC)CC)(F)F | C6H10BrF2NO
